US05093370
1,4-Bis(6-diethylaminohexyl)benzene
First, 0.42 g of 1,4-bis(6-bromohexyl)benzene and 0.44 g of diethylamine were dissolved in 5 ml of absolute ethanol, and the mixture was refluxed for 2 hours. After removing the solvent under a reduced pressure and adding chloroform, the mixture was evaporated under a reduced pressure. The residue was acidified with 1N hydrochloric acid, washed with chloroform, alkalized with 10% sodium hydroxide, subjected to salting out, and extracted with total 80 ml of chloroform. The extract was washed with water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated under a reduced pressure to obtain 0.37 g of the title compound as a pale yellow liquid.

reactant | 1,4-bis(6-bromohexyl)benzene | 0.42 g | BrCCCCCCC1=CC=C(C=C1)CCCCCCBr | C18H28Br2
reactant | diethylamine | 0.44 g | C(C)NCC | C4H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,4-Bis(6-diethylaminohexyl)benzene | 0.37 g | C(C)N(CCCCCCC1=CC=C(C=C1)CCCCCCN(CC)CC)CC | C26H48N2
